US06248740B1
Production of 6-[4-[4-(diphenylmethyl)piperazino]butoxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine dihydrochloride
240 mg of a 60% sodium hydride dispersion in mineral oil was suspended in 20 ml of tetrahydrofuran; 0.99 g of 4-(diphenylmethyl)-1-piperazinebutanol was added, followed by heating and refluxing for 1 hour. After cooling, 510 mg of 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine was added, followed by heating and refluxing for 3 hours. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with dichloromethane-ethyl acetate-methanol (20:20:1). The desired fraction was collected and dissolved in 5 ml of ethyl acetate; 0.64 ml of a 4 N hydrogen chloride solution in ethyl acetate was added; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 470 mg of the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-(diphenylmethyl)-1-piperazinebutanol | 0.99 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCO)C1=CC=CC=C1 | C21H28N2O
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 510 mg | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-[4-[4-(diphenylmethyl)piperazino]butoxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine dihydrochloride | 470 mg | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCCOC=1C(=CC=2N(N1)N=CN2)C)C2=CC=CC=C2 | InChI=1S/C27H32N6O.2ClH/c1-22-20-25-28-21-29-33(25)30-27(22)34-19-9-8-14-31-15-17-32(18-16-31)26(23-10-4-2-5-11-23)24-12-6-3-7-13-24;;/h2-7,10-13,20-21,26H,8-9,14-19H2,1H3;2*1H
